US05463077
A solution of 6.3N hydrochloric acid in 20 cm3 of dioxane is added to a solution of 2.07 g of (3aS,4S,7aS)-7,7-diphenyl-4-fluoro-4-(2-methoxyphenyl)-2-tert-butoxycarbonyl-perhydroisoindole in 20 cm3 of dioxane at room temperature. The reaction mixture is stirred at this temperature for 3 hours and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallised in 40 cm3 of absolute ethanol and the crystals are filtered off and then dried. 1 g of (3aS,4S,7aS)-7,7-diphenyl-4-fluoro-4-(2-methoxyphenyl)-perhydroisoindole hydrochloride is obtained in the form of white crystals which melt at 270° C.

reactant | hydrochloric acid | 6.3N | Cl | ClH
reactant | (3aS,4S,7aS)-7,7-diphenyl-4-fluoro-4-(2-methoxyphenyl)-2-tert-butoxycarbonyl-perhydroisoindole | 2.07 g | C1(=CC=CC=C1)C1(CC[C@]([C@@H]2CN(C[C@H]12)C(=O)OC(C)(C)C)(C1=C(C=CC=C1)OC)F)C1=CC=CC=C1 | C32H36FNO3
solvent | dioxane | 20 cm3 | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 cm3 | O1CCOCC1 | C4H8O2
product | (3aS,4S,7aS)-7,7-diphenyl-4-fluoro-4-(2-methoxyphenyl)-perhydroisoindole hydrochloride | 1 g | Cl.C1(=CC=CC=C1)C1(CC[C@]([C@@H]2CNC[C@H]12)(C1=C(C=CC=C1)OC)F)C1=CC=CC=C1 | InChI=1S/C27H28FNO.ClH/c1-30-25-15-9-8-14-22(25)27(28)17-16-26(20-10-4-2-5-11-20,21-12-6-3-7-13-21)23-18-29-19-24(23)27;/h2-15,23-24,29H,16-19H2,1H3;1H/t23-,24+,27+;/m0./s1
